US04591457
N-Tosyl-3,3-bishydroxymethyl azetidine (10 g, 0.037 mol) was suspended in distilled water (100 ml) and 30% NaOH (3 ml) added. Dioxane (50 ml) was then added in order to obtain a homogeneous solution, followed by 1 g of a 5% Pt/C catalyst. This mixture was heated under reflux with rapid stirring whilst a stream of oxygen was bubbled through at the rate of 600 ml.min-1. The pH of the solution was maintained at 9-12 with 30% NaOH and the course of the oxidation followed by 'H nmr. After 24 h another 1 g of catalyst was added and after 48 h a further 2 g was added at which point all of the starting diol had been converted. In order to achieve conversion of any intermediates, a further 1 g catalyst was added after 120 h. After a total reaction time of 144 h, 5 g catalyst had been added and 10 ml 30% NaOH (0.074 mol). The solution was filtered whilst hot and the catalyst washed with dil NaOH and water. The filtrate and washings were then acidified with 4N HCl and extracted with ether (×3). The combined ether extracts were dried and evaporated to leave a white solid which, on recrystallisation from ethyl acetate, gave N-Tosyl azetidine 3-carboxylic acid.

reactant | N-Tosyl-3,3-bishydroxymethyl azetidine | 0.037 mol, 10 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC(C1)(CO)CO | C12H17NO4S
reactant | NaOH | 3 ml | [OH-].[Na+]
reactant | Dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | oxygen | O=O | O2
reactant | NaOH | 0.074 mol, 10 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
catalyst | Pt/C | [Pt] | Pt
product | N-Tosyl azetidine 3-carboxylic acid | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC(C1)C(=O)O | C11H13NO4S
